US05935956
4,4a,5,6-Tetrahydro-2-(4-trifluoromethylphenyl)-2H-pyrido[4,3-h]cinnolin-3-one
Methyl 5,6,7,8-tetrahydro-8-oxoisoquinolin-7-acetate (1.0 g), 4-trifluoromethyl-phenylhydrazine (1.6 g) and para-toluenesulphonic acid (0.25 g) were heated under reflux in xylene (20 ml) for 4 hours. The cooled reaction was poured into 2M sodium hydroxide solution and extracted with ethyl acetate, which was then washed with brine, dried, and evaporated to a gum. The gum was chromatographed on silica gel, eluting with ethyl acetate-isohexane (1:1), to afford a solid which was crystallised from isopropanol-isohexane to yield the title compound (0.25 g),

reactant | Methyl 5,6,7,8-tetrahydro-8-oxoisoquinolin-7-acetate | 1.0 g | O=C1C(CCC=2C=CN=CC12)CC(=O)OC | C12H13NO3
reactant | 4-trifluoromethyl-phenylhydrazine | 1.6 g | FC(C1=CC=C(C=C1)NN)(F)F | C7H7F3N2
reactant | para-toluenesulphonic acid | 0.25 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4,4a,5,6-Tetrahydro-2-(4-trifluoromethylphenyl)-2H-pyrido[4,3-h]cinnolin-3-one | 0.25 g | FC(C1=CC=C(C=C1)N1N=C2C3=C(CCC2CC1=O)C=CN=C3)(F)F | C18H14F3N3O
